US08461181B2
To a mixture of 5.23 g of 4-fluoro-3-nitro-benzo trifluoride and 25 ml of N-methylpyrrolidone was added 3.69 g of n-propylamine under ice cool, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into water, and the deposited solid was collected by filtration. This solid was washed with water, then, dried under reduced pressure to obtain 2.78 g of N-propyl-2-nitro-4-trifluoromethylaniline.

reactant | 4-fluoro-3-nitro-benzo trifluoride | 5.23 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | N-methylpyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
reactant | n-propylamine | 3.69 g | C(CC)N | C3H9N
solvent | water | O | H2O
product | N-propyl-2-nitro-4-trifluoromethylaniline | 2.78 g | C(CC)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H11F3N2O2
